US06020329
(a) 4-Methoxybenzyl (6R,7R)-7-[2-(Z)-Methoxyimino-2-(2-tritylaminothiadiazol-4-yl)acetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate.
Mesyl chloride (65μl) was added to 2-(Z)-methoxyimino-2-(2-tritylaminothiadiazol-4-yl)acetic acid (370mg) and N,N-diisopropylethylamine (146μl) in dichloromethane (5ml) at -20° C. The reaction mixture was stirred at -20° C. for 1 hour then added to an ice cold solution of 4-methoxybenzyl (6R,7R)-7-amino-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (335mg) and pyridine (70μl) in dichloromethane (5ml). The reaction was stirred for 1 hour, concentrated and flash chromatographed on silica gel eluting with 30,50,60 and 70% ethyl acetate in hexane to afford the title compound as a foam (300mg); vmax (CHCl3) 3398, 1784, 1724, 1691, 1516, 1134 and 1107 cm-1 ; δH (CDCl3, 250MHz) 1.55-1.75 (1H,m), 1.80-2.05 (2H,m), 2.25-2.45 (1H,m), 3.30 and 3.61 (2H, ABq, J 18.3Hz), 3.75-4.00 (2H,m), 3.81 (3H,m), 4.16 (3H,m), 4.85-5.00 (1H,m), 5.00 (1H,d, J 4.8Hz), 5.17 (2H,s), 5.92 (1H,dd, J 4.8Hz), 6.72 (1H,d,J 7.8Hz) and 6.88 and 7.30 (19H,m). [Mass spectrum: +ve ion (3-nitrobenzyl alcohol, sodium acetate) MNa+ (839)].

reactant | Mesyl chloride | 65μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 2-(Z)-methoxyimino-2-(2-tritylaminothiadiazol-4-yl)acetic acid | 370mg | CO\N=C(/C(=O)O)\C=1NN(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N4O3S
reactant | N,N-diisopropylethylamine | 146μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-methoxybenzyl (6R,7R)-7-amino-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 335mg | N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C19H22N2O5S
solvent | dichloromethane | 5ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5ml | ClCCl | CH2Cl2
solvent | pyridine | 70μl | N1=CC=CC=C1 | C5H5N
product | 4-Methoxybenzyl (6R,7R)-7-[2-(Z)-Methoxyimino-2-(2-tritylaminothiadiazol-4-yl)acetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 300mg | CO\N=C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)\C=1NN(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H42N6O7S2
